US07642276B2
(4-Bromo-2-nitrophenyl)methyl sulfide
A suspension of 4-bromo-1-(bromomethyl)-2-nitrobenzene (1.0 g) and sodium methanethiolate (0.285 g) in tetrahydrofuran (20 ml) was stirred under nitrogen for 60 h. The solvent was evaporated, chloroform (50 ml) was added and the rsidual solid was removed by filtration. The filtrate was comncentrated under vacuum to give the title compound (0.89 g).

reactant | 4-bromo-1-(bromomethyl)-2-nitrobenzene | 1.0 g | BrC1=CC(=C(C=C1)CBr)[N+](=O)[O-] | C7H5Br2NO2
reactant | sodium methanethiolate | 0.285 g | C[S-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4-Bromo-2-nitrophenyl)methyl sulfide | 0.89 g | BrC1=CC(=C(C=C1)SC)[N+](=O)[O-] | C7H6BrNO2S
